US07795262B2
Step 3. Preparation of 2-[6-bromo-1-(2-chloro-phenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-1-(4-cyclobutyl-piperazin-1-yl)-ethanone
To a stirred suspension of 6-bromo-1-(2-chloro-phenyl)-1,2,3,4-tetrahydroisoquinoline HCl salt (400 mg, 1.11 mmol) in acetonitrile (10.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (241 mg, 1.11 mmol, 1.0 eq.), K2CO3 (306 mg, 2.22 mmol, 2.0 eq.), and NaI (50 mg). The resulting mixture is stirred at rt overnight. Water (10.0 ml) is added to quench the reaction, and the acetonitrile is evaporated. The residue is extracted with DCM (10 ml×3), and the combined extracts are dried over sodium sulfate. The solvent is removed under reduced pressure, and the residue is purified through PTLC (EtOAc/4% TEA) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 7.40 (1H, dd), 7.18˜7.32 (5H, m), 6.49 (1H, d), 5.10 (1H, s), 3.81 (1H, m), 3.46 (1H, m), 3.04˜3.40 (6H, m), 2.60˜2.88 (3H, m), 2.41 (1H, m), 2.27 (1H, m), 1.96˜2.14 (4H), 1.60˜1.92 (4H); MS (+VE) m/z 503.9 (M++1).

reactant | 6-bromo-1-(2-chloro-phenyl)-1,2,3,4-tetrahydroisoquinoline HCl salt | 1.11 mmol, 400 mg | Cl.BrC=1C=C2CCNC(C2=CC1)C1=C(C=CC=C1)Cl
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 1.11 mmol, 241 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 2.22 mmol, 306 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 50 mg | [Na+].[I-]
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
solvent | Water | 10.0 ml | O | H2O
product | 2-[6-bromo-1-(2-chloro-phenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-1-(4-cyclobutyl-piperazin-1-yl)-ethanone | BrC=1C=C2CCN(C(C2=CC1)C1=C(C=CC=C1)Cl)CC(=O)N1CCN(CC1)C1CCC1 | C25H29BrClN3O
